US06455550B1
Preparation of 4-(5-Cyano-1,3-dioxo-2H-isoindol-2-yl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine (Ro 27-5853/000, 29156-154)
To a mixture of 4-(5-cyano-1,3-dioxo-2H-isoindol-2-yl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (0.3 mmol, 151 mg) and lithium iodide (3.0 mmol, 397 mg) was added pyridine (6 mL) at room temperature. The solution was refluxed for 15 h at which time TLC analysis of the mixture indicated the absence of starting material. Then, it was cooled to room temperature and diluted with water (15 mL) and the bulk of the pyridine was removed by concentration under reduced pressure. The residue was extracted with ether (2×15 mL) to remove any neutral impurities. The aqueous layer was acidified with 1N HCl and the precipitated white solid was collected by filtration and washed with 20 mL of water and 20 mL of hexane. After air-drying, the crude product was purified by reverse phase HPLC to afford 50 mg (34%) of a white solid, mp 143-146° C. HR MS (C27H27N3O6): Obs mass, 490.1990. Calcd mass, 490.1978 (M+H).

reactant | 4-(5-cyano-1,3-dioxo-2H-isoindol-2-yl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.3 mmol, 151 mg | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C#N)=O)=O | C28H29N3O6
reactant | lithium iodide | 3.0 mmol, 397 mg | [I-].[Li+]
reactant | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 15 mL | O | H2O
product | 4-(5-Cyano-1,3-dioxo-2H-isoindol-2-yl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine | 50 mg, 34% | C(#N)C=1C=C2C(N(C(C2=CC1)=O)C1=CC=C(C[C@H](NC(=O)C2(CCCC2)CCOC)C(=O)O)C=C1)=O | C27H27N3O6
